US07138404B2
b) (4-Amino-5-benzyl-pyrimidin-2-ylsulfanyl)-acetic acid allyl ester
(4-Amino-5-benzyl-pyrimidin-2-ylsulfanyl)-acetic acid (0.25 mmol, 69 mg), dicyclohexylcarbodiimide (0.3 mmol, 62 mg) and allyl alcohol (0.3 mmol, 18 mg) were dissolved in 1 ml of DMF, and a catalytic amount of 4-dimethylaminopyridine (approx. 1–3 mg) was added. After shaking the mixture for 24 h at r.t., the title compound, MS: m/e=316.2 (M+H+), was obtained from the reaction mixture by HPLC chromatography (YMC CombiPrep C18 column 50×20 mm, solvent gradient 10–95% CH3CN in 0.1% TFA(aq) over 6.0 min, λ=230 nm, flow rate 40 ml/min).

reactant | (4-Amino-5-benzyl-pyrimidin-2-ylsulfanyl)-acetic acid | 0.25 mmol, 69 mg | NC1=NC(=NC=C1CC1=CC=CC=C1)SCC(=O)O | C13H13N3O2S
reactant | dicyclohexylcarbodiimide | 0.3 mmol, 62 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | allyl alcohol | 0.3 mmol, 18 mg | C(C=C)O | C3H6O
reactant | CH3CN | CC#N | C2H3N
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
catalyst | 4-dimethylaminopyridine | approx. 1–3 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | (4-Amino-5-benzyl-pyrimidin-2-ylsulfanyl)-acetic acid allyl ester | C(C=C)OC(CSC1=NC=C(C(=N1)N)CC1=CC=CC=C1)=O | C16H17N3O2S
